US08349849B2
3-aminophenol (19 g, 17 mol) was dissolved in Ac2O (162 g, 1.59 mol, 9.5 eq.), and pyridine (4.9 g, 0.062 mol, 0.36 eq.) was added. Then the reaction mixture was stirred at 80° C. over 2 h. Ice water (50 mL) was added to the mixture, and added saturated NaHCO3 solution to the mixture until pH=7, then extracted (ethyl acetate), washed (brine), dried (Na2SO4), concentrated to give 3-acetamidophenyl acetate as gray solid (30 g, yield: 93%). ESI-MS: 194 (M+H)+.

reactant | 3-aminophenol | 17 mol, 19 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | Ac2O | 1.59 mol, 162 g, 9.5 eq. | CC(=O)OC(=O)C | C4H6O3
reactant | pyridine | 0.062 mol, 4.9 g, 0.36 eq. | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-acetamidophenyl acetate | 30 g, yield: 93% | C(C)(=O)OC1=CC(=CC=C1)NC(C)=O | C10H11NO3
